US07935699B2
(R)-2-(3-Chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionic acid methyl ester (294 mg, 0.77 mmol) was dissolved in ethanol (8 mL) and treated with a solution of lithium hydroxide monohydrate (81 mg, 1.9 mmol) in water (2 mL) at 25° C. It was stirred at 25° C. until the starting material was all consumed by TLC (˜1 hr). The reaction was then concentrated in vacuo to remove the ethanol. The remaining aqueous layer was then acidified to pH=2 with an aqueous 1N hydrochloric acid solution. This was then extracted with ethyl acetate (3×20 mL), the organic layers combined and dried over magnesium sulfate, filtered and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionic acid (242 mg, 86%) as a mixture of two diastereomers as a light yellow foam: ES-HRMS m/e calcd for C15H17O4SClF2 (M+Na)+ 389.0396, observed 389.0394; 1H NMR (300 MHz, CDCl3) δ 1.06-2.38 (m, 9H, CH and 4×CH2), 3.28 (s, 3H, SO2CH3), 3.65 (m, 1H, ArCH), 7.42 (m, 1H, Ar), 7.54 (m, 1H, Ar), 8.14 (m, 1H, Ar).

reactant | (R)-2-(3-Chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionic acid methyl ester | 0.77 mmol, 294 mg | COC([C@H](C[C@@H]1CC(CC1)(F)F)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H19ClF2O4S
reactant | lithium hydroxide monohydrate | 1.9 mmol, 81 mg | O.[OH-].[Li+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionic acid | 242 mg, 86% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)C[C@@H]1CC(CC1)(F)F | C15H17ClF2O4S
